US09359371B2
In the mixture of DCM (20 mL) and THF (20 mL) were dissolved 2-(3-azabicyclo[3.1.0]hexan-3-yl)-4-((3-fluoro-4-methoxybenzyl)amino)pyrimidine-5-carboxylic acid (580 mg, 1.62 mmol), trans-4-hydroxycyclohexylamine (187 mg, 1.62 mmol), TEA (485 mg, 4.79 mmol) and HATU (2-(7-azobenzotriazole)-N,N,N′,N′-tetramethyluroniumhexafluorophosphate (743 mg, 1.95 mmol). The reaction was conducted at ambient temperature for 17 h. The solvent was removed by evaporation, followed by addition of water and extraction with DCM. The organic phase was dried over sodium sulfate and concentrated to give a solid, which was purified by silica gel column chromatography (DCM/methanol=50/1) to give 2-(3-azabicyclo[3.1.0]hexan-3-yl)-4-((3-fluoro-4-methoxybenzyl)amino)-N-(trans-4-hydroxycyclohexyl)pyrimidine-5-formamide as a faint yellow solid (200 mg, 27.1% yield).

reactant | DCM | 20 mL | C(Cl)Cl | CH2Cl2
reactant | 2-(3-azabicyclo[3.1.0]hexan-3-yl)-4-((3-fluoro-4-methoxybenzyl)amino)pyrimidine-5-carboxylic acid | 1.62 mmol, 580 mg | C12CN(CC2C1)C1=NC=C(C(=N1)NCC1=CC(=C(C=C1)OC)F)C(=O)O | C18H19FN4O3
reactant | trans-4-hydroxycyclohexylamine | 1.62 mmol, 187 mg | O[C@@H]1CC[C@H](CC1)N | C6H13NO
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-(3-azabicyclo[3.1.0]hexan-3-yl)-4-((3-fluoro-4-methoxybenzyl)amino)-N-(trans-4-hydroxycyclohexyl)pyrimidine-5-formamide | 200 mg, 27.1% yield | C12CN(CC2C1)C1=NC=C(C(=N1)NCC1=CC(=C(C=C1)OC)F)C(=O)N[C@@H]1CC[C@H](CC1)O | C24H30FN5O3
